US05116813
9-methyl-6-decen-1-ol was prepared in the same manner according to Example 4 except that 111.56 g (0.5 mol) of ethyl 6-bromohexanoate was used in place of ethyl 5-bromovalerate and 43.07 g (0.5 mol) of isovaleraldehyde was used in place of 2-methyl valeraldehyde.

reactant | ethyl 6-bromohexanoate | 0.5 mol, 111.56 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | isovaleraldehyde | 0.5 mol, 43.07 g | C(CC(C)C)=O | C5H10O
product | 9-methyl-6-decen-1-ol | Yield: 50% | CC(CC=CCCCCCO)C | C11H22O
